US07732466B2
(c) methyl 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionate
Prepared analogously to Example 1a from methyl 5-chloro-thiophene-2-carboxylic acid and 2-aminopropionate with TBTU and NMM in THF.

reactant | methyl 5-chloro-thiophene-2-carboxylic acid | CC1=C(SC(=C1)Cl)C(=O)O | C6H5ClO2S
reactant | 2-aminopropionate | NC(C(=O)[O-])C
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | THF | C1CCOC1 | C4H8O
product | methyl 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionate | ClC1=CC=C(S1)C(=O)NC(C(=O)OC)C | C9H10ClNO3S
